US06958344B2
a) 2-[[(2,3-Difluorophenyl)methyl]thio]-4,6-pyrimidinediamine
4,6-diamino-2-pyrimidinethiol (7.3 g) was dissolved in DMSO (100 ml) at room temperature under an atmosphere of nitrogen. Potassium tert-butoxide (1M in THF, 48.3 ml) was added followed by 2,3-difluorobenzyl-bromide (10.0 g). The mixture was stirred for 2 hours at room temperature. The reaction mixture was then partitioned between ethyl acetate and ammonium chloride. The organic phase was washed with ammonium chloride (3×) and brine, then dried over magnesium sulphate and evaporated to give the subtitled product as a white solid (12.2 g)

reactant | 4,6-diamino-2-pyrimidinethiol | 7.3 g | NC1=NC(=NC(=C1)N)S | C4H6N4S
reactant | Potassium tert-butoxide | 1M, 48.3 ml | CC(C)([O-])C.[K+]
reactant | 2,3-difluorobenzyl-bromide | 10.0 g | FC1=C(CBr)C=CC=C1F | C7H5BrF2
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2-[[(2,3-Difluorophenyl)methyl]thio]-4,6-pyrimidinediamine | 12.2 g | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)N)N | C11H10F2N4S
